US09376422B2
Step 4: synthesis of methyl 3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate
To a stirred solution of methyl 3-((4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate (1.4 g, 5.05 mmol) and acetaldehyde (0.7 ml, 13 mmol) in 20 ml of dichloroethane was added acetic acid (1.7 mL, 30 mmol) and the reaction mixture was stirred at room temperature for 20 minutes. The reaction mixture was cooled to 0° C. and sodium triacetoxyborohydride (3.2 g, 15 mmol) was added and the mixture was stirred at room temperature for overnight. The reaction mixture was neutralized with sat. NaHCO3 and extracted with DCM. The combined organic layers were dried over Na2SO4, concentrated under reduced pressure, and the residue purified by silica gel column chromatography to afford the title compound (1.42 g, 94%).

reactant | methyl 3-((4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate | 5.05 mmol, 1.4 g | OC1(CCC(CC1)NC=1C(=C(C(=O)OC)C=CC1)C)C | C16H23NO3
reactant | acetaldehyde | 13 mmol, 0.7 ml | C(C)=O | C2H4O
reactant | acetic acid | 30 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 15 mmol, 3.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | methyl 3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate | 1.42 g, 94% | C(C)N(C=1C(=C(C(=O)OC)C=CC1)C)C1CCC(CC1)(C)O | C18H27NO3
